*-- pdngen: spice deck generated for chip 'chiplet1' PDN
*-- die chiplet1:  W/H: 0.002/0.003


.subckt chiplet1
+nd_pad_port_0_1
+nd_pad_port_0_3
+nd_pad_port_0_5
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_1_4
+nd_pad_port_2_1
+nd_pad_port_2_3
+nd_pad_port_2_5
+nd_pad_port_3_0
+nd_pad_port_3_2
+nd_pad_port_3_4
*-- p/g port #: 12/12
+nd_1_0_3000_8666

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_1000_666 nd_1_0_3000_666 0.016324
rd_1_2_0_0_1 nd_1_0_3000_666 nd_1_0_5000_666 0.016324
rd_1_2_0_0_2 nd_1_0_5000_666 nd_1_0_7000_666 0.016324
rd_1_2_0_0_3 nd_1_0_7000_666 nd_1_0_9000_666 0.016324
rd_1_2_0_1_0 nd_1_0_1000_2000 nd_1_0_3000_2000 0.016324
rd_1_2_0_1_1 nd_1_0_3000_2000 nd_1_0_5000_2000 0.016324
rd_1_2_0_1_2 nd_1_0_5000_2000 nd_1_0_7000_2000 0.016324
rd_1_2_0_1_3 nd_1_0_7000_2000 nd_1_0_9000_2000 0.016324
rd_1_2_0_2_0 nd_1_0_1000_3333 nd_1_0_3000_3333 0.016324
rd_1_2_0_2_1 nd_1_0_3000_3333 nd_1_0_5000_3333 0.016324
rd_1_2_0_2_2 nd_1_0_5000_3333 nd_1_0_7000_3333 0.016324
rd_1_2_0_2_3 nd_1_0_7000_3333 nd_1_0_9000_3333 0.016324
rd_1_2_0_3_0 nd_1_0_1000_4666 nd_1_0_3000_4666 0.016324
rd_1_2_0_3_1 nd_1_0_3000_4666 nd_1_0_5000_4666 0.016324
rd_1_2_0_3_2 nd_1_0_5000_4666 nd_1_0_7000_4666 0.016324
rd_1_2_0_3_3 nd_1_0_7000_4666 nd_1_0_9000_4666 0.016324
rd_1_2_0_4_0 nd_1_0_1000_6000 nd_1_0_3000_6000 0.016324
rd_1_2_0_4_1 nd_1_0_3000_6000 nd_1_0_5000_6000 0.016324
rd_1_2_0_4_2 nd_1_0_5000_6000 nd_1_0_7000_6000 0.016324
rd_1_2_0_4_3 nd_1_0_7000_6000 nd_1_0_9000_6000 0.016324
rd_1_2_0_5_0 nd_1_0_1000_7333 nd_1_0_3000_7333 0.016324
rd_1_2_0_5_1 nd_1_0_3000_7333 nd_1_0_5000_7333 0.016324
rd_1_2_0_5_2 nd_1_0_5000_7333 nd_1_0_7000_7333 0.016324
rd_1_2_0_5_3 nd_1_0_7000_7333 nd_1_0_9000_7333 0.016324
rd_1_2_0_6_0 nd_1_0_1000_8666 nd_1_0_3000_8666 0.016324
rd_1_2_0_6_1 nd_1_0_3000_8666 nd_1_0_5000_8666 0.016324
rd_1_2_0_6_2 nd_1_0_5000_8666 nd_1_0_7000_8666 0.016324
rd_1_2_0_6_3 nd_1_0_7000_8666 nd_1_0_9000_8666 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_1000_666 nd_2_0_1000_2000 0.016324
rd_2_1_0_0_1 nd_2_0_1000_2000 nd_2_0_1000_3333 0.016324
rd_2_1_0_0_2 nd_2_0_1000_3333 nd_2_0_1000_4666 0.016324
rd_2_1_0_0_3 nd_2_0_1000_4666 nd_2_0_1000_6000 0.016324
rd_2_1_0_0_4 nd_2_0_1000_6000 nd_2_0_1000_7333 0.016324
rd_2_1_0_0_5 nd_2_0_1000_7333 nd_2_0_1000_8666 0.016324
rd_2_1_0_1_0 nd_2_0_3000_666 nd_2_0_3000_2000 0.016324
rd_2_1_0_1_1 nd_2_0_3000_2000 nd_2_0_3000_3333 0.016324
rd_2_1_0_1_2 nd_2_0_3000_3333 nd_2_0_3000_4666 0.016324
rd_2_1_0_1_3 nd_2_0_3000_4666 nd_2_0_3000_6000 0.016324
rd_2_1_0_1_4 nd_2_0_3000_6000 nd_2_0_3000_7333 0.016324
rd_2_1_0_1_5 nd_2_0_3000_7333 nd_2_0_3000_8666 0.016324
rd_2_1_0_2_0 nd_2_0_5000_666 nd_2_0_5000_2000 0.016324
rd_2_1_0_2_1 nd_2_0_5000_2000 nd_2_0_5000_3333 0.016324
rd_2_1_0_2_2 nd_2_0_5000_3333 nd_2_0_5000_4666 0.016324
rd_2_1_0_2_3 nd_2_0_5000_4666 nd_2_0_5000_6000 0.016324
rd_2_1_0_2_4 nd_2_0_5000_6000 nd_2_0_5000_7333 0.016324
rd_2_1_0_2_5 nd_2_0_5000_7333 nd_2_0_5000_8666 0.016324
rd_2_1_0_3_0 nd_2_0_7000_666 nd_2_0_7000_2000 0.016324
rd_2_1_0_3_1 nd_2_0_7000_2000 nd_2_0_7000_3333 0.016324
rd_2_1_0_3_2 nd_2_0_7000_3333 nd_2_0_7000_4666 0.016324
rd_2_1_0_3_3 nd_2_0_7000_4666 nd_2_0_7000_6000 0.016324
rd_2_1_0_3_4 nd_2_0_7000_6000 nd_2_0_7000_7333 0.016324
rd_2_1_0_3_5 nd_2_0_7000_7333 nd_2_0_7000_8666 0.016324
rd_2_1_0_4_0 nd_2_0_9000_666 nd_2_0_9000_2000 0.016324
rd_2_1_0_4_1 nd_2_0_9000_2000 nd_2_0_9000_3333 0.016324
rd_2_1_0_4_2 nd_2_0_9000_3333 nd_2_0_9000_4666 0.016324
rd_2_1_0_4_3 nd_2_0_9000_4666 nd_2_0_9000_6000 0.016324
rd_2_1_0_4_4 nd_2_0_9000_6000 nd_2_0_9000_7333 0.016324
rd_2_1_0_4_5 nd_2_0_9000_7333 nd_2_0_9000_8666 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_1000_666 nd_2_0_1000_666 0.005
rvd_1_0_0_1 nd_1_0_3000_666 nd_2_0_3000_666 0.005
rvd_1_0_0_2 nd_1_0_5000_666 nd_2_0_5000_666 0.005
rvd_1_0_0_3 nd_1_0_7000_666 nd_2_0_7000_666 0.005
rvd_1_0_0_4 nd_1_0_9000_666 nd_2_0_9000_666 0.005
rvd_1_0_1_0 nd_1_0_1000_2000 nd_2_0_1000_2000 0.005
rvd_1_0_1_1 nd_1_0_3000_2000 nd_2_0_3000_2000 0.005
rvd_1_0_1_2 nd_1_0_5000_2000 nd_2_0_5000_2000 0.005
rvd_1_0_1_3 nd_1_0_7000_2000 nd_2_0_7000_2000 0.005
rvd_1_0_1_4 nd_1_0_9000_2000 nd_2_0_9000_2000 0.005
rvd_1_0_2_0 nd_1_0_1000_3333 nd_2_0_1000_3333 0.005
rvd_1_0_2_1 nd_1_0_3000_3333 nd_2_0_3000_3333 0.005
rvd_1_0_2_2 nd_1_0_5000_3333 nd_2_0_5000_3333 0.005
rvd_1_0_2_3 nd_1_0_7000_3333 nd_2_0_7000_3333 0.005
rvd_1_0_2_4 nd_1_0_9000_3333 nd_2_0_9000_3333 0.005
rvd_1_0_3_0 nd_1_0_1000_4666 nd_2_0_1000_4666 0.005
rvd_1_0_3_1 nd_1_0_3000_4666 nd_2_0_3000_4666 0.005
rvd_1_0_3_2 nd_1_0_5000_4666 nd_2_0_5000_4666 0.005
rvd_1_0_3_3 nd_1_0_7000_4666 nd_2_0_7000_4666 0.005
rvd_1_0_3_4 nd_1_0_9000_4666 nd_2_0_9000_4666 0.005
rvd_1_0_4_0 nd_1_0_1000_6000 nd_2_0_1000_6000 0.005
rvd_1_0_4_1 nd_1_0_3000_6000 nd_2_0_3000_6000 0.005
rvd_1_0_4_2 nd_1_0_5000_6000 nd_2_0_5000_6000 0.005
rvd_1_0_4_3 nd_1_0_7000_6000 nd_2_0_7000_6000 0.005
rvd_1_0_4_4 nd_1_0_9000_6000 nd_2_0_9000_6000 0.005
rvd_1_0_5_0 nd_1_0_1000_7333 nd_2_0_1000_7333 0.005
rvd_1_0_5_1 nd_1_0_3000_7333 nd_2_0_3000_7333 0.005
rvd_1_0_5_2 nd_1_0_5000_7333 nd_2_0_5000_7333 0.005
rvd_1_0_5_3 nd_1_0_7000_7333 nd_2_0_7000_7333 0.005
rvd_1_0_5_4 nd_1_0_9000_7333 nd_2_0_9000_7333 0.005
rvd_1_0_6_0 nd_1_0_1000_8666 nd_2_0_1000_8666 0.005
rvd_1_0_6_1 nd_1_0_3000_8666 nd_2_0_3000_8666 0.005
rvd_1_0_6_2 nd_1_0_5000_8666 nd_2_0_5000_8666 0.005
rvd_1_0_6_3 nd_1_0_7000_8666 nd_2_0_7000_8666 0.005
rvd_1_0_6_4 nd_1_0_9000_8666 nd_2_0_9000_8666 0.005
*-- via layer 1-2: net: 0 VSS net
id_0_0_0_0 nd_1_0_1000_666 0 0.00695094
id_0_0_0_1 nd_1_0_3000_666 0 0.024879
id_0_0_0_2 nd_1_0_5000_666 0 0.0116272
id_0_0_0_3 nd_1_0_7000_666 0 0.0140572
id_0_0_0_4 nd_1_0_9000_666 0 0.0163925
id_0_0_0_5 nd_1_0_1000_2000 0 0.0230679
id_0_0_0_6 nd_1_0_3000_2000 0 0.0254039
id_0_0_0_7 nd_1_0_5000_2000 0 0.0122565
id_0_0_0_8 nd_1_0_7000_2000 0 0.0145271
id_0_0_0_9 nd_1_0_9000_2000 0 0.0168305
id_0_0_0_10 nd_1_0_1000_3333 0 0.023701
id_0_0_0_11 nd_1_0_3000_3333 0 0.0103452
id_0_0_0_12 nd_1_0_5000_3333 0 0.0283158
id_0_0_0_13 nd_1_0_7000_3333 0 0.030634
id_0_0_0_14 nd_1_0_9000_3333 0 0.00181238
id_0_0_0_15 nd_1_0_1000_4666 0 0.0197189
id_0_0_0_16 nd_1_0_3000_4666 0 0.0264567
id_0_0_0_17 nd_1_0_5000_4666 0 0.0130986
id_0_0_0_18 nd_1_0_7000_4666 0 5.38619e-05
id_0_0_0_19 nd_1_0_9000_4666 0 0.0179717
id_0_0_0_20 nd_1_0_1000_6000 0 0.00479724
id_0_0_0_21 nd_1_0_3000_6000 0 0.0113119
id_0_0_0_22 nd_1_0_5000_6000 0 0.0293592
id_0_0_0_23 nd_1_0_7000_6000 0 0.0161822
id_0_0_0_24 nd_1_0_9000_6000 0 0.0184547
id_0_0_0_25 nd_1_0_1000_7333 0 0.0208221
id_0_0_0_26 nd_1_0_3000_7333 0 0.0275641
id_0_0_0_27 nd_1_0_5000_7333 0 0.0298234
id_0_0_0_28 nd_1_0_7000_7333 0 0.00110436
id_0_0_0_29 nd_1_0_9000_7333 0 0.0188902
id_0_0_0_30 nd_1_0_1000_8666 0 0.00583956
id_0_0_0_31 nd_1_0_3000_8666 0 0.0126052
id_0_0_0_32 nd_1_0_5000_8666 0 0.0150327
id_0_0_0_33 nd_1_0_7000_8666 0 0.00170706
id_0_0_0_34 nd_1_0_9000_8666 0 0.00396069

*-- intentional decap
cd_add_cap0 nd_1_0_3000_2000 nd0 'dcap_int_val120'
cd_add_cap1 nd_1_0_7000_2000 nd1 'dcap_int_val121'
cd_add_cap2 nd_1_0_3000_4666 nd2 'dcap_int_val122'
cd_add_cap3 nd_1_0_7000_4666 nd3 'dcap_int_val123'
cd_add_cap4 nd_1_0_3000_7333 nd4 'dcap_int_val124'
cd_add_cap5 nd_1_0_7000_7333 nd5 'dcap_int_val125'
rd_add0 nd0 0 'esr1'
rd_add1 nd1 0 'esr2'
rd_add2 nd2 0 'esr3'
rd_add3 nd3 0 'esr4'
rd_add4 nd4 0 'esr5'
rd_add5 nd5 0 'esr6'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_0_5 nd_pad_port_0_5 nd_pad_0_5 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xd_pad_1_4 nd_pad_port_1_4 nd_pad_1_4 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_2_5 nd_pad_port_2_5 nd_pad_2_5 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
xd_pad_3_4 nd_pad_port_3_4 nd_pad_3_4 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_1000_3333  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_1000_6000  0.001
rd_pad2via_0_5 nd_pad_0_5 nd_2_0_1000_8666  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_3000_2000  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_3000_4666  0.001
rd_pad2via_1_4 nd_pad_1_4 nd_2_0_3000_7333  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_5000_3333  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_5000_6000  0.001
rd_pad2via_2_5 nd_pad_2_5 nd_2_0_5000_8666  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_7000_2000  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_7000_4666  0.001
rd_pad2via_3_4 nd_pad_3_4 nd_2_0_7000_7333  0.001

.ends chiplet1
