*-- pdngen: spice deck generated for chip 'chiplet3' PDN
*-- die chiplet3:  W/H: 0.003/0.003


.subckt chiplet3
+nd_pad_port_0_1
+nd_pad_port_0_3
+nd_pad_port_0_5
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_1_4
+nd_pad_port_2_1
+nd_pad_port_2_3
+nd_pad_port_2_5
+nd_pad_port_3_0
+nd_pad_port_3_2
+nd_pad_port_3_4
+nd_pad_port_4_1
+nd_pad_port_4_3
+nd_pad_port_4_5
+nd_pad_port_5_0
+nd_pad_port_5_2
+nd_pad_port_5_4
*-- p/g port #: 18/18
+nd_1_0_8666_3333

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_666_666 nd_1_0_2000_666 0.016324
rd_1_2_0_0_1 nd_1_0_2000_666 nd_1_0_3333_666 0.016324
rd_1_2_0_0_2 nd_1_0_3333_666 nd_1_0_4666_666 0.016324
rd_1_2_0_0_3 nd_1_0_4666_666 nd_1_0_6000_666 0.016324
rd_1_2_0_0_4 nd_1_0_6000_666 nd_1_0_7333_666 0.016324
rd_1_2_0_0_5 nd_1_0_7333_666 nd_1_0_8666_666 0.016324
rd_1_2_0_1_0 nd_1_0_666_2000 nd_1_0_2000_2000 0.016324
rd_1_2_0_1_1 nd_1_0_2000_2000 nd_1_0_3333_2000 0.016324
rd_1_2_0_1_2 nd_1_0_3333_2000 nd_1_0_4666_2000 0.016324
rd_1_2_0_1_3 nd_1_0_4666_2000 nd_1_0_6000_2000 0.016324
rd_1_2_0_1_4 nd_1_0_6000_2000 nd_1_0_7333_2000 0.016324
rd_1_2_0_1_5 nd_1_0_7333_2000 nd_1_0_8666_2000 0.016324
rd_1_2_0_2_0 nd_1_0_666_3333 nd_1_0_2000_3333 0.016324
rd_1_2_0_2_1 nd_1_0_2000_3333 nd_1_0_3333_3333 0.016324
rd_1_2_0_2_2 nd_1_0_3333_3333 nd_1_0_4666_3333 0.016324
rd_1_2_0_2_3 nd_1_0_4666_3333 nd_1_0_6000_3333 0.016324
rd_1_2_0_2_4 nd_1_0_6000_3333 nd_1_0_7333_3333 0.016324
rd_1_2_0_2_5 nd_1_0_7333_3333 nd_1_0_8666_3333 0.016324
rd_1_2_0_3_0 nd_1_0_666_4666 nd_1_0_2000_4666 0.016324
rd_1_2_0_3_1 nd_1_0_2000_4666 nd_1_0_3333_4666 0.016324
rd_1_2_0_3_2 nd_1_0_3333_4666 nd_1_0_4666_4666 0.016324
rd_1_2_0_3_3 nd_1_0_4666_4666 nd_1_0_6000_4666 0.016324
rd_1_2_0_3_4 nd_1_0_6000_4666 nd_1_0_7333_4666 0.016324
rd_1_2_0_3_5 nd_1_0_7333_4666 nd_1_0_8666_4666 0.016324
rd_1_2_0_4_0 nd_1_0_666_6000 nd_1_0_2000_6000 0.016324
rd_1_2_0_4_1 nd_1_0_2000_6000 nd_1_0_3333_6000 0.016324
rd_1_2_0_4_2 nd_1_0_3333_6000 nd_1_0_4666_6000 0.016324
rd_1_2_0_4_3 nd_1_0_4666_6000 nd_1_0_6000_6000 0.016324
rd_1_2_0_4_4 nd_1_0_6000_6000 nd_1_0_7333_6000 0.016324
rd_1_2_0_4_5 nd_1_0_7333_6000 nd_1_0_8666_6000 0.016324
rd_1_2_0_5_0 nd_1_0_666_7333 nd_1_0_2000_7333 0.016324
rd_1_2_0_5_1 nd_1_0_2000_7333 nd_1_0_3333_7333 0.016324
rd_1_2_0_5_2 nd_1_0_3333_7333 nd_1_0_4666_7333 0.016324
rd_1_2_0_5_3 nd_1_0_4666_7333 nd_1_0_6000_7333 0.016324
rd_1_2_0_5_4 nd_1_0_6000_7333 nd_1_0_7333_7333 0.016324
rd_1_2_0_5_5 nd_1_0_7333_7333 nd_1_0_8666_7333 0.016324
rd_1_2_0_6_0 nd_1_0_666_8666 nd_1_0_2000_8666 0.016324
rd_1_2_0_6_1 nd_1_0_2000_8666 nd_1_0_3333_8666 0.016324
rd_1_2_0_6_2 nd_1_0_3333_8666 nd_1_0_4666_8666 0.016324
rd_1_2_0_6_3 nd_1_0_4666_8666 nd_1_0_6000_8666 0.016324
rd_1_2_0_6_4 nd_1_0_6000_8666 nd_1_0_7333_8666 0.016324
rd_1_2_0_6_5 nd_1_0_7333_8666 nd_1_0_8666_8666 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_666_666 nd_2_0_666_2000 0.016324
rd_2_1_0_0_1 nd_2_0_666_2000 nd_2_0_666_3333 0.016324
rd_2_1_0_0_2 nd_2_0_666_3333 nd_2_0_666_4666 0.016324
rd_2_1_0_0_3 nd_2_0_666_4666 nd_2_0_666_6000 0.016324
rd_2_1_0_0_4 nd_2_0_666_6000 nd_2_0_666_7333 0.016324
rd_2_1_0_0_5 nd_2_0_666_7333 nd_2_0_666_8666 0.016324
rd_2_1_0_1_0 nd_2_0_2000_666 nd_2_0_2000_2000 0.016324
rd_2_1_0_1_1 nd_2_0_2000_2000 nd_2_0_2000_3333 0.016324
rd_2_1_0_1_2 nd_2_0_2000_3333 nd_2_0_2000_4666 0.016324
rd_2_1_0_1_3 nd_2_0_2000_4666 nd_2_0_2000_6000 0.016324
rd_2_1_0_1_4 nd_2_0_2000_6000 nd_2_0_2000_7333 0.016324
rd_2_1_0_1_5 nd_2_0_2000_7333 nd_2_0_2000_8666 0.016324
rd_2_1_0_2_0 nd_2_0_3333_666 nd_2_0_3333_2000 0.016324
rd_2_1_0_2_1 nd_2_0_3333_2000 nd_2_0_3333_3333 0.016324
rd_2_1_0_2_2 nd_2_0_3333_3333 nd_2_0_3333_4666 0.016324
rd_2_1_0_2_3 nd_2_0_3333_4666 nd_2_0_3333_6000 0.016324
rd_2_1_0_2_4 nd_2_0_3333_6000 nd_2_0_3333_7333 0.016324
rd_2_1_0_2_5 nd_2_0_3333_7333 nd_2_0_3333_8666 0.016324
rd_2_1_0_3_0 nd_2_0_4666_666 nd_2_0_4666_2000 0.016324
rd_2_1_0_3_1 nd_2_0_4666_2000 nd_2_0_4666_3333 0.016324
rd_2_1_0_3_2 nd_2_0_4666_3333 nd_2_0_4666_4666 0.016324
rd_2_1_0_3_3 nd_2_0_4666_4666 nd_2_0_4666_6000 0.016324
rd_2_1_0_3_4 nd_2_0_4666_6000 nd_2_0_4666_7333 0.016324
rd_2_1_0_3_5 nd_2_0_4666_7333 nd_2_0_4666_8666 0.016324
rd_2_1_0_4_0 nd_2_0_6000_666 nd_2_0_6000_2000 0.016324
rd_2_1_0_4_1 nd_2_0_6000_2000 nd_2_0_6000_3333 0.016324
rd_2_1_0_4_2 nd_2_0_6000_3333 nd_2_0_6000_4666 0.016324
rd_2_1_0_4_3 nd_2_0_6000_4666 nd_2_0_6000_6000 0.016324
rd_2_1_0_4_4 nd_2_0_6000_6000 nd_2_0_6000_7333 0.016324
rd_2_1_0_4_5 nd_2_0_6000_7333 nd_2_0_6000_8666 0.016324
rd_2_1_0_5_0 nd_2_0_7333_666 nd_2_0_7333_2000 0.016324
rd_2_1_0_5_1 nd_2_0_7333_2000 nd_2_0_7333_3333 0.016324
rd_2_1_0_5_2 nd_2_0_7333_3333 nd_2_0_7333_4666 0.016324
rd_2_1_0_5_3 nd_2_0_7333_4666 nd_2_0_7333_6000 0.016324
rd_2_1_0_5_4 nd_2_0_7333_6000 nd_2_0_7333_7333 0.016324
rd_2_1_0_5_5 nd_2_0_7333_7333 nd_2_0_7333_8666 0.016324
rd_2_1_0_6_0 nd_2_0_8666_666 nd_2_0_8666_2000 0.016324
rd_2_1_0_6_1 nd_2_0_8666_2000 nd_2_0_8666_3333 0.016324
rd_2_1_0_6_2 nd_2_0_8666_3333 nd_2_0_8666_4666 0.016324
rd_2_1_0_6_3 nd_2_0_8666_4666 nd_2_0_8666_6000 0.016324
rd_2_1_0_6_4 nd_2_0_8666_6000 nd_2_0_8666_7333 0.016324
rd_2_1_0_6_5 nd_2_0_8666_7333 nd_2_0_8666_8666 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_666_666 nd_2_0_666_666 0.005
rvd_1_0_0_1 nd_1_0_2000_666 nd_2_0_2000_666 0.005
rvd_1_0_0_2 nd_1_0_3333_666 nd_2_0_3333_666 0.005
rvd_1_0_0_3 nd_1_0_4666_666 nd_2_0_4666_666 0.005
rvd_1_0_0_4 nd_1_0_6000_666 nd_2_0_6000_666 0.005
rvd_1_0_0_5 nd_1_0_7333_666 nd_2_0_7333_666 0.005
rvd_1_0_0_6 nd_1_0_8666_666 nd_2_0_8666_666 0.005
rvd_1_0_1_0 nd_1_0_666_2000 nd_2_0_666_2000 0.005
rvd_1_0_1_1 nd_1_0_2000_2000 nd_2_0_2000_2000 0.005
rvd_1_0_1_2 nd_1_0_3333_2000 nd_2_0_3333_2000 0.005
rvd_1_0_1_3 nd_1_0_4666_2000 nd_2_0_4666_2000 0.005
rvd_1_0_1_4 nd_1_0_6000_2000 nd_2_0_6000_2000 0.005
rvd_1_0_1_5 nd_1_0_7333_2000 nd_2_0_7333_2000 0.005
rvd_1_0_1_6 nd_1_0_8666_2000 nd_2_0_8666_2000 0.005
rvd_1_0_2_0 nd_1_0_666_3333 nd_2_0_666_3333 0.005
rvd_1_0_2_1 nd_1_0_2000_3333 nd_2_0_2000_3333 0.005
rvd_1_0_2_2 nd_1_0_3333_3333 nd_2_0_3333_3333 0.005
rvd_1_0_2_3 nd_1_0_4666_3333 nd_2_0_4666_3333 0.005
rvd_1_0_2_4 nd_1_0_6000_3333 nd_2_0_6000_3333 0.005
rvd_1_0_2_5 nd_1_0_7333_3333 nd_2_0_7333_3333 0.005
rvd_1_0_2_6 nd_1_0_8666_3333 nd_2_0_8666_3333 0.005
rvd_1_0_3_0 nd_1_0_666_4666 nd_2_0_666_4666 0.005
rvd_1_0_3_1 nd_1_0_2000_4666 nd_2_0_2000_4666 0.005
rvd_1_0_3_2 nd_1_0_3333_4666 nd_2_0_3333_4666 0.005
rvd_1_0_3_3 nd_1_0_4666_4666 nd_2_0_4666_4666 0.005
rvd_1_0_3_4 nd_1_0_6000_4666 nd_2_0_6000_4666 0.005
rvd_1_0_3_5 nd_1_0_7333_4666 nd_2_0_7333_4666 0.005
rvd_1_0_3_6 nd_1_0_8666_4666 nd_2_0_8666_4666 0.005
rvd_1_0_4_0 nd_1_0_666_6000 nd_2_0_666_6000 0.005
rvd_1_0_4_1 nd_1_0_2000_6000 nd_2_0_2000_6000 0.005
rvd_1_0_4_2 nd_1_0_3333_6000 nd_2_0_3333_6000 0.005
rvd_1_0_4_3 nd_1_0_4666_6000 nd_2_0_4666_6000 0.005
rvd_1_0_4_4 nd_1_0_6000_6000 nd_2_0_6000_6000 0.005
rvd_1_0_4_5 nd_1_0_7333_6000 nd_2_0_7333_6000 0.005
rvd_1_0_4_6 nd_1_0_8666_6000 nd_2_0_8666_6000 0.005
rvd_1_0_5_0 nd_1_0_666_7333 nd_2_0_666_7333 0.005
rvd_1_0_5_1 nd_1_0_2000_7333 nd_2_0_2000_7333 0.005
rvd_1_0_5_2 nd_1_0_3333_7333 nd_2_0_3333_7333 0.005
rvd_1_0_5_3 nd_1_0_4666_7333 nd_2_0_4666_7333 0.005
rvd_1_0_5_4 nd_1_0_6000_7333 nd_2_0_6000_7333 0.005
rvd_1_0_5_5 nd_1_0_7333_7333 nd_2_0_7333_7333 0.005
rvd_1_0_5_6 nd_1_0_8666_7333 nd_2_0_8666_7333 0.005
rvd_1_0_6_0 nd_1_0_666_8666 nd_2_0_666_8666 0.005
rvd_1_0_6_1 nd_1_0_2000_8666 nd_2_0_2000_8666 0.005
rvd_1_0_6_2 nd_1_0_3333_8666 nd_2_0_3333_8666 0.005
rvd_1_0_6_3 nd_1_0_4666_8666 nd_2_0_4666_8666 0.005
rvd_1_0_6_4 nd_1_0_6000_8666 nd_2_0_6000_8666 0.005
rvd_1_0_6_5 nd_1_0_7333_8666 nd_2_0_7333_8666 0.005
rvd_1_0_6_6 nd_1_0_8666_8666 nd_2_0_8666_8666 0.005
*-- via layer 1-2: net: 0 VSS net
id_0_0_0_0 nd_1_0_666_666 0 0.0210056
id_0_0_0_1 nd_1_0_2000_666 0 0.0227433
id_0_0_0_2 nd_1_0_3333_666 0 0.00127648
id_0_0_0_3 nd_1_0_4666_666 0 0.0145534
id_0_0_0_4 nd_1_0_6000_666 0 0.00794839
id_0_0_0_5 nd_1_0_7333_666 0 0.0214881
id_0_0_0_6 nd_1_0_8666_666 0 0.0231394
id_0_0_0_7 nd_1_0_666_2000 0 0.00154624
id_0_0_0_8 nd_1_0_2000_2000 0 0.0150391
id_0_0_0_9 nd_1_0_3333_2000 0 0.0200932
id_0_0_0_10 nd_1_0_4666_2000 0 0.0102061
id_0_0_0_11 nd_1_0_6000_2000 0 0.000265937
id_0_0_0_12 nd_1_0_7333_2000 0 0.00204722
id_0_0_0_13 nd_1_0_8666_2000 0 0.0153966
id_0_0_0_14 nd_1_0_666_3333 0 0.0087954
id_0_0_0_15 nd_1_0_2000_3333 0 0.0222114
id_0_0_0_16 nd_1_0_3333_3333 0 0.000620989
id_0_0_0_17 nd_1_0_4666_3333 0 0.013988
id_0_0_0_18 nd_1_0_6000_3333 0 0.015872
id_0_0_0_19 nd_1_0_7333_3333 0 0.0209011
id_0_0_0_20 nd_1_0_8666_3333 0 0.0109449
id_0_0_0_21 nd_1_0_666_4666 0 0.00113609
id_0_0_0_22 nd_1_0_2000_4666 0 0.0144245
id_0_0_0_23 nd_1_0_3333_4666 0 0.0162843
id_0_0_0_24 nd_1_0_4666_4666 0 0.0212678
id_0_0_0_25 nd_1_0_6000_4666 0 0.0230264
id_0_0_0_26 nd_1_0_7333_4666 0 0.0130681
id_0_0_0_27 nd_1_0_8666_4666 0 0.0149167
id_0_0_0_28 nd_1_0_666_6000 0 0.0165586
id_0_0_0_29 nd_1_0_2000_6000 0 0.0183756
id_0_0_0_30 nd_1_0_3333_6000 0 0.011891
id_0_0_0_31 nd_1_0_4666_6000 0 0.0136525
id_0_0_0_32 nd_1_0_6000_6000 0 0.00364481
id_0_0_0_33 nd_1_0_7333_6000 0 0.00533059
id_0_0_0_34 nd_1_0_8666_6000 0 0.0187465
id_0_0_0_35 nd_1_0_666_7333 0 0.000400391
id_0_0_0_36 nd_1_0_2000_7333 0 0.0023257
id_0_0_0_37 nd_1_0_3333_7333 0 0.00407931
id_0_0_0_38 nd_1_0_4666_7333 0 0.0174095
id_0_0_0_39 nd_1_0_6000_7333 0 0.00754409
id_0_0_0_40 nd_1_0_7333_7333 0 0.000993972
id_0_0_0_41 nd_1_0_8666_7333 0 0.00269613
id_0_0_0_42 nd_1_0_666_8666 0 0.00441014
id_0_0_0_43 nd_1_0_2000_8666 0 0.00634499
id_0_0_0_44 nd_1_0_3333_8666 0 0.0079193
id_0_0_0_45 nd_1_0_4666_8666 0 0.012919
id_0_0_0_46 nd_1_0_6000_8666 0 0.00307836
id_0_0_0_47 nd_1_0_7333_8666 0 0.0164865
id_0_0_0_48 nd_1_0_8666_8666 0 0.00654191

*-- intentional decap
cd_add_cap0 nd_1_0_2000_2000 nd0 'dcap_int_val134'
cd_add_cap1 nd_1_0_4666_2000 nd1 'dcap_int_val135'
cd_add_cap2 nd_1_0_7333_2000 nd2 'dcap_int_val136'
cd_add_cap3 nd_1_0_2000_4666 nd3 'dcap_int_val137'
cd_add_cap4 nd_1_0_4666_4666 nd4 'dcap_int_val138'
cd_add_cap5 nd_1_0_7333_4666 nd5 'dcap_int_val139'
cd_add_cap6 nd_1_0_2000_7333 nd6 'dcap_int_val140'
cd_add_cap7 nd_1_0_4666_7333 nd7 'dcap_int_val141'
cd_add_cap8 nd_1_0_7333_7333 nd8 'dcap_int_val142'
rd_add0 nd0 0 'esr13'
rd_add1 nd1 0 'esr14'
rd_add2 nd2 0 'esr15'
rd_add3 nd3 0 'esr16'
rd_add4 nd4 0 'esr17'
rd_add5 nd5 0 'esr18'
rd_add6 nd6 0 'esr19'
rd_add7 nd7 0 'esr20'
rd_add8 nd8 0 'esr21'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_0_5 nd_pad_port_0_5 nd_pad_0_5 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xd_pad_1_4 nd_pad_port_1_4 nd_pad_1_4 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_2_5 nd_pad_port_2_5 nd_pad_2_5 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
xd_pad_3_4 nd_pad_port_3_4 nd_pad_3_4 ubump_subckt
xd_pad_4_1 nd_pad_port_4_1 nd_pad_4_1 ubump_subckt
xd_pad_4_3 nd_pad_port_4_3 nd_pad_4_3 ubump_subckt
xd_pad_4_5 nd_pad_port_4_5 nd_pad_4_5 ubump_subckt
xd_pad_5_0 nd_pad_port_5_0 nd_pad_5_0 ubump_subckt
xd_pad_5_2 nd_pad_port_5_2 nd_pad_5_2 ubump_subckt
xd_pad_5_4 nd_pad_port_5_4 nd_pad_5_4 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_2000_3333  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_2000_6000  0.001
rd_pad2via_0_5 nd_pad_0_5 nd_2_0_2000_8666  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_3333_2000  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_3333_4666  0.001
rd_pad2via_1_4 nd_pad_1_4 nd_2_0_3333_7333  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_4666_3333  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_4666_6000  0.001
rd_pad2via_2_5 nd_pad_2_5 nd_2_0_4666_8666  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_6000_2000  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_6000_4666  0.001
rd_pad2via_3_4 nd_pad_3_4 nd_2_0_6000_7333  0.001
rd_pad2via_4_1 nd_pad_4_1 nd_2_0_7333_3333  0.001
rd_pad2via_4_3 nd_pad_4_3 nd_2_0_7333_6000  0.001
rd_pad2via_4_5 nd_pad_4_5 nd_2_0_7333_8666  0.001
rd_pad2via_5_0 nd_pad_5_0 nd_2_0_8666_2000  0.001
rd_pad2via_5_2 nd_pad_5_2 nd_2_0_8666_4666  0.001
rd_pad2via_5_4 nd_pad_5_4 nd_2_0_8666_7333  0.001

.ends chiplet3
